US08138181B2
Step 2: Preparation of 2-(7-ethylimidazo[1,2-a]pyridin-3-yl)-8-((trans)-3-fluoropiperidin-4-yloxy)quinoline:
Prepared according to the procedure for Example 16, using (cis)-tert-butyl 3-fluoro-4-(methylsulfonyloxy)piperidine-1-carboxylate in place of tert-butyl 2-((methylsulfonyloxy)methyl)morpholine-4-carboxylate and 2-(7-ethylimidazo[1,2-a]pyridin-3-yl)quinolin-8-ol in place of 2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ol. MS APCI (+) m/z 391.2 (M+1) detected.

reactant | (cis)-tert-butyl 3-fluoro-4-(methylsulfonyloxy)piperidine-1-carboxylate | F[C@@H]1CN(CC[C@@H]1OS(=O)(=O)C)C(=O)OC(C)(C)C | C11H20FNO5S
reactant | 2-(7-ethylimidazo[1,2-a]pyridin-3-yl)quinolin-8-ol | C(C)C1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)O | C18H15N3O
product | 2-(7-ethylimidazo[1,2-a]pyridin-3-yl)-8-((trans)-3-fluoropiperidin-4-yloxy)quinoline | C(C)C1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)O[C@H]2[C@@H](CNCC2)F | C23H23FN4O
